// RLC bandpass filter - Spectre netlist
simulator lang=spectre
global 0

// Power supply
vdd (vdd 0) vsource type=dc dc=1.8

// Input pulse
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=1n rise=500p fall=500p width=6225.204250336787n period=12450.408500673573n

// RLC bandpass filter
l1 (in mid) inductor l=6.8e-06
r1 (mid out) resistor r=7755
c1 (out 0) capacitor c=1e-09

// Analysis - timestep fine enough for LC oscillation
tran tran stop=16124.245583621807n errpreset=moderate maxstep=2n

// Save outputs
save in out
